US09334286B2
Preparation 59: 1-(4-(7-Bromo-1,6-naphthyridin-2-yl)-1H-pyrazol-1-yl)-2-methylpropan-2-ol
The title compound was prepared according to the method described for Preparation 58 using 7-Bromo-2-chloro-1,6-naphthyridine (Preparation 61) and 2-methyl-1-(4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)-1H-pyrazol-1-yl)propan-2-ol (Preparation 124).

reactant | 7-Bromo-2-chloro-1,6-naphthyridine | BrC1=NC=C2C=CC(=NC2=C1)Cl | C8H4BrClN2
reactant | 2-methyl-1-(4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)-1H-pyrazol-1-yl)propan-2-ol | CC(CN1N=CC(=C1)B1OC(C(O1)(C)C)(C)C)(C)O | C13H23BN2O3
product | 1-(4-(7-Bromo-1,6-naphthyridin-2-yl)-1H-pyrazol-1-yl)-2-methylpropan-2-ol | BrC1=NC=C2C=CC(=NC2=C1)C=1C=NN(C1)CC(C)(O)C | C15H15BrN4O
